US04758570
Preparation of 1-formyl-3-(4-chlorobenzyl)-2-nitromethylene-hexahydropyrimidine
1-(4-Chlorobenzyl)-2-nitromethylene-hexahydropyrimidine (3 g) was added to a stirred suspension of sodium hydride (0.54 g) in dry dimethylformamide (150 ml) at room temperature under nitrogen and the stirring was continued overnight. Formic acetic anhydride (100% excess) was then added dropwise to the stirred suspension at 0°. The reaction mixture was then stirred for 1 hour. It was then poured onto water and extracted with dichloromethane (2×200 ml). The combined organic layers were dried (sodium sulphate) and the solvent removed in vacuo, to leave a solid. The solid was triturated with chloroform (5 ml) and was then filtered off, washed with chloroform (5 ml) and dried to afford the title compound (1.2 g), m.pt. 131°-133° C.

reactant | 1-(4-Chlorobenzyl)-2-nitromethylene-hexahydropyrimidine | 3 g | ClC1=CC=C(CN2C(NCCC2)=C[N+](=O)[O-])C=C1 | C12H14ClN3O2
reactant | sodium hydride | 0.54 g | [H-].[Na+]
reactant | Formic acetic anhydride | C(C)(=O)OC=O | C3H4O3
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1-formyl-3-(4-chlorobenzyl)-2-nitromethylene-hexahydropyrimidine | 1.2 g | C(=O)N1C(N(CCC1)CC1=CC=C(C=C1)Cl)=C[N+](=O)[O-] | C13H14ClN3O3
